US08895580B2
Step 4: Preparation of 2-(2-fluorophenyl)-5-(biphenyl-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
5-Biphenyl-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one (51 mg, 0.14 mmol), potassium phosphate (77 mg, 0.36 mmol, 2.5 equiv), (±)-trans-N,N′-bismethyl-1,2-cyclohexane diamine (4.1 mg, 0.029 mmol, 0.2 equiv), copper(I) iodide (2.8 mg, 0.015 mmol, 0.1 equiv) and 2-fluoroiodobenzene (17 μL, 0.14 mmol, 1 equiv) were combined in a sealed tube containing N,N-dimethylformamide (2 mL). The mixture was sparged under a nitrogen atmosphere, the vessel was sealed and placed into an preheated oil bath at 110° C. for 15 hours. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (20 mL, aqueous saturated) and extracted with ethyl acetate (2×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 95:5; dichloromethane:methanol), providing the titled compound: 1H-NMR (500 MHz, d6-DMSO) δ 9.17 (1H, s), 8.21 (1H, dd, J=8.0, 1.4 Hz), 7.80 (1H, d, J=8.6 Hz), 7.66 (2H, d, J=8.2 Hz), 7.64-7.59 (4H, m), 7.54 (1H, t, J=7.4 Hz), 7.46-7.32 (8H, m), 5.79 (2H, s) ppm; high resolution mass spectrometry (ES+) m/z 446.1668 [(M+H)+; calculated for C29H21FN3O: 446.1663].

reactant | 2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | 0.14 mmol, 51 mg | N=1NC(C2=CNC=3C=CC=CC3C21)=O | C10H7N3O
reactant | potassium phosphate | 0.36 mmol, 77 mg, 2.5 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-trans-N,N′-bismethyl-1,2-cyclohexane diamine | 0.029 mmol, 4.1 mg, 0.2 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 2-fluoroiodobenzene | 0.14 mmol, 17 μL, 1 equiv | FC1=C(C=CC=C1)I | C6H4FI
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.015 mmol, 2.8 mg, 0.1 equiv | [Cu]I
product | 2-(2-fluorophenyl)-5-(biphenyl-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)C2=CC=CC=C2)C1=O | C29H20FN3O
